US05308853
Methyl Z-4-[[2-butyl-5-[(1,3-dibutyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1H-imidazol-1-yl]methyl]benzoate monohydrochloride
To a solution of trifluoromethanesulfonic anhydride (0.094 mL, 0.56 mmol) in methylene chloride (10 mL) at -78° C. was added a solution of methyl 4-(hydroxymethyl)benzoate (0.093 g, 0.56 mmol) and N,N-diisopropylethylamine (0.098 mL, 0.56 mmol) in methylene chloride (10 mL) dropwise over 5 minutes. This solution was stirred for 15 minutes and then a solution of Z-1,3-dibutyl-5-[[2-butyl-3-(triphenylmethyl)-3H-imidazol-5-yl]methylene]-2,4-imidazolidinedione (0.330 g, 0.56 mmol) in methylene chloride (5 mL) was added dropwise. The mixture was allowed to slowly warm to room temperature within the cooling bath overnight. Glacial acetic acid (10 mL) and water (2 mL) were added and the mixture boiled for 1 hour on a steam bath. After evaporation in vacuo the residue was dissolved in ethyl acetate, washed with saturated NaHCO3 and brine, and then dried over MgSO4. Chromatography eluting with CHCl3 afforded the required product with spectral characteristics identical with the produce formed in Example 33.

reactant | trifluoromethanesulfonic anhydride | 0.56 mmol, 0.094 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 4-(hydroxymethyl)benzoate | 0.56 mmol, 0.093 g | OCC1=CC=C(C(=O)OC)C=C1 | C9H10O3
reactant | N,N-diisopropylethylamine | 0.56 mmol, 0.098 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Z-1,3-dibutyl-5-[[2-butyl-3-(triphenylmethyl)-3H-imidazol-5-yl]methylene]-2,4-imidazolidinedione | 0.56 mmol, 0.330 g | C(CCC)N\1C(N(C(/C1=C/C1=CN(C(=N1)CCCC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCC)=O | C38H44N4O2
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 2 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | methyl Z-4-[[2-Butyl-5-[(1,3-Dibutyl-2,5-Dioxo-4-Imidazolidinylidene) Methyl]-1H-Imidazol-1-yl]Methyl]Benzoate Monohydrochloride | Cl.C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CCCC)CC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C28H38N4O4.ClH/c1-5-8-11-25-29-19-23(32(25)20-21-12-14-22(15-13-21)27(34)36-4)18-24-26(33)31(17-10-7-3)28(35)30(24)16-9-6-2;/h12-15,18-19H,5-11,16-17,20H2,1-4H3;1H/b24-18-;
